US06727264B1
N-(3-{1-[5-(3-ACETYLPHENOXY)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 1-{3-[(5-chloropentyl)oxy]phenyl}ethanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 451.3 (M+H)+.

reactant | 1-{3-[(5-chloropentyl)oxy]phenyl}ethanone | ClCCCCCOC=1C=C(C=CC1)C(C)=O | C13H17ClO2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[5-(3-ACETYLPHENOXY)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C(C)(=O)C=1C=C(OCCCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC1 | C28H38N2O3
